US07256198B2
Step 1: 3-(5′-Bromo-2′-oxospiro[1,3-dioxane-2,3′-indol]-1′(2′H)-yl)butanenitrile
To a solution of 5′-bromospiro[1,3-dioxane-2,3′-indol]-2′(1′H)-one (2.00 g, 7.04 mmol) and benzyltrimethylammonium hydroxide (40% aqueous solution, 0.768 mL, 1.69 mmol, 0.24 mole %) in abs. EtOH (32 mL) was added allyl cyanide (1.42 mL, 17.6 mmol, 2.5 eq) all at one time at room temperature and the mixture was heated at 80° C. for 2.5 hr. Additional benzyltrimethyl-ammonium hydroxide (0.77 mL) was added and the heating continued another 24 hr. The reaction was cooled to room temperature and poured into H2O (100 mL). The reaction mixture was extracted with EtOAc (3×). The combined organic extracts were concentrated. The crude product was purified on Biotage KP silica gel eluting with CH2Cl2/CH3OH/NH4OH (97/2/1) to give the title compound as a white solid (0.299 g, 16% ). Anal. Calc'd for: C15H15BrN2O3: C, 51.3; H, 4.3; N, 7.98. Found: C, 51.55; H, 4.47; N 7.99. NMR (300 Mz, DMSO-d6): consistent. MS: (ES+) m/z 350/352 [M+]; one Br pattern observed. m.p.: 112-113° C.

reactant | 5′-bromospiro[1,3-dioxane-2,3′-indol]-2′(1′H)-one | 7.04 mmol, 2.00 g | BrC=1C=C2C3(C(NC2=CC1)=O)OCCCO3 | C11H10BrNO3
reactant | benzyltrimethylammonium hydroxide | 1.69 mmol, 0.768 mL | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
reactant | EtOH | 32 mL | CCO | C2H6O
reactant | allyl cyanide | 17.6 mmol, 1.42 mL, 2.5 eq | C(C=C)C#N | C4H5N
reactant | benzyltrimethyl-ammonium hydroxide | 0.77 mL | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | H2O | 100 mL | O | H2O
product | 3-(5′-Bromo-2′-oxospiro[1,3-dioxane-2,3′-indol]-1′(2′H)-yl)butanenitrile | 0.299 g, 16% | BrC=1C=C2C3(C(N(C2=CC1)C(CC#N)C)=O)OCCCO3 | C15H15BrN2O3
